2122-03-17 07:26:00 Physician Resident Progress Note
Chief Complaint: Unresponsive
   24 Hour Events:
 INVASIVE VENTILATION - START [**2122-3-16**] 01:00 PM
 EEG - At [**2122-3-16**] 04:00 PM
 ARTERIAL LINE - START [**2122-3-16**] 04:48 PM
 LUMBAR PUNCTURE - At [**2122-3-16**] 06:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2122-3-17**] 02:30 AM
 FEVER - 101.8
F - [**2122-3-16**] 06:00 PM
   - FeNa <1%, U Na < 10 --> suggests hypovolemic hyponatremia
   - Goal of Na 129 in 24 hrs (by Tues PM) for slow correction with 0.9%
   NS
   - Na 128 before midnight so IVF stopped
   - held Mirtazapine in case of serotonin syn
   - Weaned down to 5/5 40% with good gas
   - CK trending upward
   - MS [**Last Name (Titles) 6486**], following commands
   - MRI done
   - CSF: gram stain negative, cx pending, 3 WBC, 0 RBCs
   - HSV PCR from LP pending
   - Na this AM 133 --> d/w Renal, starting D5W at 150/hr to prevent
   further correction
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-16**] 04:15 PM
   Ceftriaxone - [**2122-3-17**] 12:38 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2122-3-16**] 06:26 PM
   Flowsheet Data as of  [**2122-3-17**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.2
C (99
   HR: 83 (71 - 105) bpm
   BP: 148/81(98) {137/81(98) - 164/109(121)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,497 mL
                                                                    406 mL
   PO:
             TF:
   IVF:
                                                                  2,437 mL
                                                                    286 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                  2,100 mL
   Urine:
                                                                  1,470 mL
                                                                  2,100 mL
   Balance:
                                                                  1,027 mL
                                                                 -1,694 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 620 (595 - 620) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 10 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.48/30/181/20/0
   Ve: 8 L/min
   PaO2 / FiO2: 453
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: MM dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   203 K/uL
   12.3 g/dL
   113 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.3 mEq/L
   11 mg/dL
   101 mEq/L
   133 mEq/L
   34.0 %
   11.4 K/uL
        [image002.jpg]
                             [**2122-3-16**]  12:28 PM
                             [**2122-3-16**]  04:59 PM
                             [**2122-3-16**]  05:40 PM
                             [**2122-3-16**]  07:59 PM
                             [**2122-3-16**]  11:47 PM
                             [**2122-3-17**]  02:19 AM
                             [**2122-3-17**]  04:18 AM
                             [**2122-3-17**]  05:25 AM
   WBC
   10.0
   11.4
   Hct
   35.1
   34.0
   Plt
   207
   203
   Cr
   0.8
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   23
   24
   22
   21
   23
   Glucose
   167
   123
   113
   Other labs: PT / PTT / INR:13.6/26.5/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 6487**]/8/<0.01, ALT / AST:27/51, Alk Phos / T Bili:92/0.6,
   Lactic Acid:1.6 mmol/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Microbiology: Blood cx: P
   Urine cx: P
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   63M intubated in the setting of altered mental status, with ? of
   seizure activity, and found to be hyponatremic.
   .
   # Mental status: DDx included seizure, toxic-metabolic (hyponatremia),
   stroke unlikely given CTA imaging, CNS infection (initially afebrile
   but now spiked on arrival).
   - Empiric coverage with CTX/Vanco
 Will stop [**3-17**] AM
   - LP results negative Gram stain; culture pending, follow-up
   - Correct electrolytes abnormalities (see below)
   - F/u EEG results
   - Neuro recs: MRI head with and without contrast, seizure precautions,
   Ativan 2 mg for any convulsive activity > 3 minutes
   - F/U MRI read
   .
   # Hyponatremia: Na 121 could have caused seziure and post-ictal state
   if this was a rapid decline in the serum sodium. Started with normal
   saline, not actively seizing so no indication for hypertonic saline at
   this time and unclear time course.  Calculate Na deficit: 504 mEq to a
   desired Na 135.
   - Correct Na no more than 12mEq/24 hour period
   - Hold HCTZ
   - Na corrected to 133 this AM despite stopping IVF with Na 128
   consulted Renal for recommendation, starting D5W to prevent further
   rapid correction; will give DDavp
   .
   # Respiratory Failure: Intubated in the setting of obtundation and ?
   seizure. No problems with oxygenation. XR with ? aspiration vs
   atelectasis on L.
   - Wean to minimal settings
 extubate this AM given minimal vent
   settings
   - keep levaquin for now in case of PNA (atypical coverage)
   - Urine legionella NEGATIVE
   .
   # HTN: Pt has hx of significant HTN, on several meds.
   - Restart home meds
   - Hold HCTZ
   .
   # Elevated CK: Likely secondary to seizure / rhabdomyolysis.  Found in
   bed, not necessarily.
   - Follow uop
   - Trend CK & monitor Cr given concern for impairing renal function; if
   worsens could obtain CrCl given CK will change Cr values
   # DM2: Not on any agents at this time.
   - Follow FSBS
   - RISS prn
   .
   # CAD: Hx of MI in the past.
   - Cycled enzymes
 follow-up AM values
   - Continue home meds
   - Pt not on ASA per med list, will clarify with PCP
   .
   # Achalasia: Hx severe achalsia by report.
   - NPO for now
   - Swallow eval once extubated
   .
   # Psych hx: Hx depression, agoraphobia. On ativan at baseline.
   - Continue home psych meds; except holding Remeron for Seratonin
   Syndrome; could restart soon
   .
   # FEN: Replete lytes / NPO
   .
   # Access: 2 PIVs, a-line
   .
   # Ppx: pneumoboots / IV PPI / VAP Bundle
   .
   # Code: PRESUMED FULL
   .
   # Contact: PCP [**Name Initial (PRE) 1333**] [**Telephone/Fax (1) 6465**] (Urban Med) ; Brother is next of
   [**Doctor First Name 372**]: [**Name (NI) 6466**] [**Name (NI) 4329**] [**Telephone/Fax (1) 6467**]
   or [**Telephone/Fax (1) 6468**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-3-16**] 02:39 PM
   Arterial Line - [**2122-3-16**] 04:48 PM
   22 Gauge - [**2122-3-16**] 09:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-03-17 09:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Na slightly over corrected from 121 to 133, so D5W started. UNa was
   <10. LP done appears neg so far. Renal was consulted. Vent weaned to
   [**4-28**]. Mirtazepine held for concern of seratonin syndrome. Now following
   commands. CK rose to >12,000.
 INVASIVE VENTILATION - START [**2122-3-16**] 01:00 PM
 EEG - At [**2122-3-16**] 04:00 PM
 ARTERIAL LINE - START [**2122-3-16**] 04:48 PM
 LUMBAR PUNCTURE - At [**2122-3-16**] 06:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2122-3-17**] 02:30 AM
 FEVER - 101.8
F - [**2122-3-16**] 06:00 PM
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-17**] 08:00 AM
   Ceftriaxone - [**2122-3-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2122-3-16**] 06:26 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-17**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.7
C (98
   HR: 77 (71 - 105) bpm
   BP: 148/81(98) {137/81(98) - 164/109(121)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,497 mL
                                                                    963 mL
   PO:
             TF:
   IVF:
                                                                  2,437 mL
                                                                    783 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                  2,480 mL
   Urine:
                                                                  1,470 mL
                                                                  2,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,027 mL
                                                                 -1,517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 620 (595 - 620) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 10 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.48/30/181/20/0
   Ve: 8 L/min
   PaO2 / FiO2: 453
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: LLQ, no guarding or
   rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   203 K/uL
   113 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.3 mEq/L
   11 mg/dL
   101 mEq/L
   131 mEq/L
   34.0 %
   11.4 K/uL
        [image002.jpg]
                             [**2122-3-16**]  12:28 PM
                             [**2122-3-16**]  04:59 PM
                             [**2122-3-16**]  05:40 PM
                             [**2122-3-16**]  07:59 PM
                             [**2122-3-16**]  11:47 PM
                             [**2122-3-17**]  02:19 AM
                             [**2122-3-17**]  04:18 AM
                             [**2122-3-17**]  05:25 AM
   WBC
   10.0
   11.4
   Hct
   35.1
   34.0
   Plt
   207
   203
   Cr
   0.8
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   23
   24
   22
   21
   23
   Glucose
   167
   123
   113
   Other labs: PT / PTT / INR:13.6/26.5/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 6487**]/8/<0.01, ALT / AST:27/51, Alk Phos / T Bili:92/0.6,
   Lactic Acid:1.6 mmol/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   Plan:
   1. AMS: Now following commands, nodding to questions
   -plan to extubate
   -f/u EEG and MRI
   2. Hyponatremia: Consistent with hypovolemia
   -on D5W for now to avoid overcorrection
   -goal stay at 130 today for Na
   -renal recs
   3. Rhabdo: CK rose to 12,000
   -now on D5W
   -follow CK
   -close exam for muscle injury when extubated
   4. Fever: No clear infectious source, ? seratonin syndrome, ? seizure
   -f/u MRI
   -d/c abx
   5. htn:
   -restarted home meds except hctz
   6. FEN: bedside swallow given severe achalasia, D5W
   7. agoraphobia: cont. home psyche meds except remeron
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2122-3-16**] 02:39 PM
   Arterial Line - [**2122-3-16**] 04:48 PM
   22 Gauge - [**2122-3-16**] 09:47 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**First Name11 (Name Pattern1) 2721**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1596**], and
   would add: 63 yo male found unresponsive at [**Hospital3 **] facility
   requiring intubation in the field. Initial ED eval notable for
   hyponatremia of unclear chronicity, and negative head CT. MS [**First Name (Titles) **]
[**Last Name (Titles) 6506**]tly been improving, and pt was extubated earlier today.
   Problem [**Name (NI) **]:
   1. AMS: Pt improved; w/u still ongoing with MRI and EEG results
   pending. Neuro team following. With his initial Na level of 121, it is
   possible that he had a seizure and was post-ictal though the likelihood
   of this scenario would partly depend on how quickly his hyponatremia
   evolved. Abx dc
d as LP chemistries not suggestive of meningitis
   2. Hyponatremia: Appears related to diuretic given dilute urine, and
   hypokalemia. Na has corrected with volume expansion using isotonic
   salinee.
   3. Rhabdo- renal function so far unchanged. Continue fluid
   resusictation and f/u serial trend.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2122-3-17**] 16:20 ------

2122-03-18 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2122-3-17**] 09:52 AM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2122-3-17**]
   04:07 PM
   PT SELF D/C EJ.
   - CK trending upward
   - MS improved, following commands, extubated
   - HSV PCR from LP pending
   - Na yesterday  AM 133 --> d/w Renal, starting D5W at 150/hr to prevent
   further correction; upon further discussion, recommended 2L NS to which
   NA bumped to 139.  CK trended UP to 78,700, again discussed with renal
   and recommeded continued NS infusion at 150cc/h, given that pt only has
   a 22 gauge, were only able to run at 100c but urine output > 100cc/h
   - etiologies of CK included possible NMS from olanzapine or omeprazole
   - held; NMS from succ during intubation; rare necrotizing myositis from
   labetalol or omeprazole.  however, pt has no muscle pain or tenderness.
   - Per PCP, [**Name10 (NameIs) **] psych, had lived in a NH x 4 yrs, now transitioning to
   Asst'd Living.
   - repleted phos aggressively
   - pt left unrestrained and self-d/c'd EJ, unable to get more access
   - S&S - pureed solids, thin liquids, 1:1 supervision, crush pills
   - MRI [**3-17**] - Prominent periventricular white matter disease and
   ventriculomegaly, both of which appear unchanged from the comparison CT
   exam.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-16**] 04:15 PM
   Ceftriaxone - [**2122-3-17**] 12:38 AM
   Levofloxacin - [**2122-3-17**] 09:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-18**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 83 (77 - 97) bpm
   BP: 148/81(98) {0/0(0) - 0/0(0)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,276 mL
                                                                  1,597 mL
   PO:
                                                                    300 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,736 mL
                                                                  1,117 mL
   Blood products:
   Total out:
                                                                  5,280 mL
                                                                    920 mL
   Urine:
                                                                  5,280 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,004 mL
                                                                    677 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 99%
   ABG: 7.50/30/206/25/1
   PaO2 / FiO2: 515
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   199 K/uL
   11.6 g/dL
   106 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   7 mg/dL
   112 mEq/L
   141 mEq/L
   33.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2122-3-16**]  05:40 PM
                             [**2122-3-16**]  07:59 PM
                             [**2122-3-16**]  11:47 PM
                             [**2122-3-17**]  02:19 AM
                             [**2122-3-17**]  04:18 AM
                             [**2122-3-17**]  05:25 AM
                             [**2122-3-17**]  09:00 AM
                             [**2122-3-17**]  03:48 PM
                             [**2122-3-17**]  07:13 PM
                             [**2122-3-18**]  04:45 AM
   WBC
   11.4
   10.3
   Hct
   34.0
   33.2
   Plt
   203
   199
   Cr
   0.8
   0.8
   0.8
   0.7
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   24
   22
   21
   23
   24
   Glucose
   123
   113
   136
   109
   106
   Other labs: PT / PTT / INR:13.6/26.5/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 6522**]/8/<0.01, ALT / AST:27/51, Alk Phos / T Bili:92/0.6,
   Lactic Acid:1.2 mmol/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: CK trend:
   2,934
   12,466
   21,045
   78,720
   84,380
   84,210
   84,880
   Imaging: MRI [**3-17**]: 1. Prominent periventricular white matter disease
   and ventriculomegaly, both
   of which appear unchanged from the comparison CT exam.
   Microbiology: CSF: NGTD
   Blood cx: NGTD
   Urine cx: NGTD
   Urine legionella: Neg
   Assessment and Plan
   63M intubated in the setting of altered mental status, with ? of
   seizure activity, and found to be hyponatremic.
   .
   # Mental status: DDx included seizure, toxic-metabolic (hyponatremia),
   stroke unlikely given CTA imaging, CNS infection (initially afebrile
   but now spiked on arrival).
   - Empiric coverage with CTX/Vanco
 Stopped [**3-17**] AM
   - LP results negative Gram stain; culture pending, follow-up, HSV
   pending
   - Correct electrolytes abnormalities (see below)
   - F/u EEG results
   - Neuro recs: MRI head with and without contrast, seizure precautions,
   Ativan 2 mg for any convulsive activity > 3 minutes
   - F/U latest neuro recs
   - Final MRI read: Prominent periventricular white matter disease and
   ventriculomegaly, both of which appear unchanged from the comparison CT
   exam
   .
   # Hyponatremia: Na 121 could have caused seziure and post-ictal state
   if this was a rapid decline in the serum sodium. Started with normal
   saline, not actively seizing so no indication for hypertonic saline at
   this time and unclear time course.  Calculate Na deficit: 504 mEq to a
   desired Na 135.   Na corrected to 133 this AM despite stopping IVF with
   Na 128
 consulted Renal for recommendation, starting D5W to prevent
   further rapid correction
 further discussion with renal attending
   stopped D5W and started NS, continue hydration for renal protection for
   rhabdo.  Initial  plan to correct Na no more than 12mEq/24 hour period.
   - Holding  HCTZ
   - Corrected more rapidly, Renal still recommending NS for rhabdo;
   monitor closely
   .
   # Rhabdo: CK trending upward form 2934 on admission to 84,880 this AM.
   Unclear etiology, whether this is peaking from being down and possible
   seizure activity vs some ongoing process (ie, mediaction effect). No
   clinical evidence of NMS.  Does complain of some low back pain, but not
   severe enough to cause this level of elevation.
   - Continue IVF as per renal recs
   - Obtain better access for hydration
   - Follow creatinine
   - Send UA, urine osms; recheck osms if Na > 145
   .
   # Respiratory Failure: Extubated successfully.
   - keep levaquin for now in case of PNA (atypical coverage) x 5 days
   - Urine legionella NEGATIVE
   .
   # HTN: Pt has hx of significant HTN, on several meds.
   - Restart home meds; increase Labetolol to 600mg TID given elevated BP
   - Hold HCTZ
   .
   # DM2: Not on any agents at this time.
   - Follow FSBS
   - RISS prn
   .
   # CAD: Hx of MI in the past.
   - Cycled enzymes
 follow-up AM values
   - Continue home meds
   .
   # Achalasia: Hx severe achalsia by report.
   - Swallow eval completed: diet ordered; plan to re-evaluate in [**12-26**] days
   & then will likely not need further modification
   .
   # Psych hx: Hx depression, agoraphobia. On ativan at baseline.
   - Continue home psych meds; except holding Remeron for Serotonin
   Syndrome
   - Restart Remeron & Zyrpexa [**3-18**]
   .
   # FEN: Replete lytes / NPO
   # Access: 2 PIVs, a-line
   # Ppx: pneumoboots / IV PPI / VAP Bundle
   # Code: PRESUMED FULL
   .
   # Contact: PCP [**Name Initial (PRE) 1333**] [**Telephone/Fax (1) 6465**] (Urban Med) ; Brother is next of
   [**Doctor First Name 372**]: [**Name (NI) 6466**] [**Name (NI) 4329**] [**Telephone/Fax (1) 6467**]
   or [**Telephone/Fax (1) 6468**].